Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
light headedness 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old male with history of well controlled HIV, asthma, 
Refsum disease, here with 3 days of lightheadedness occuring 
when transitioning from sitting to standing, associated with 
some left sided tingling. Patient reports symptoms occur only 
when standing up and resolve when sitting back down. ___ 
episodes/day over past 3 days decreasing in severity, initially 
involving the entire left side of the body, then more localized 
to the L chest. Years ago had similar episodes involving the 
legs, with negative workup by his neurologist (per patient). He 
has also had zoster in the past, which patietnt stated felt much 
differently than this episode. Further, he has not experienced 
any rash or skin vesicles. Episodes not associated with chest 
pressure/pain, diaphoresis or nausesa. Patient reports some 
chest congestion last week which had resolved 4 days ago but now 
appears to be back today, along with some wheezing. No 
significant sore throat or congestion. No orthopnea, no leg pain 
or edema.  

No fever. Some increased urinary frequency at night. Referred 
from ___ clinic for concern for unstable angina. In ___ clinic 
today he was afebrile, tachy to 110-122, satting 89-93% on RA, 
BP was 130s/80s and was is not orthostatic.  
Initial vitals in ED 12:36 2 98.5 110 125/74 18 93%
 
Past Medical History:
- Refsum's disease (hereditary motor and sensory neuropathy type 
IV)  
- HIV infection  
- Knee replacements, bilateral  
- Reactive airway disease  
- Allergic rhinitis (recurrent)  
- Otitis media (recurrent)  
 

 
Social History:
___
Family History:
- Sister: ___ disease  
- Mother: deceased, had metastatic breast cancer and Alzheimer's 
disease
- Father: deceased, had throat cancer and had EtOH/smoking 
history

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS - 20:09 0 100.8 118 140/55 26 97% RA  
Gen: WD/WN, NAD, AOx3  
Skin: no generalized rash  
Oropharynx: no mucositis or thrush seen, good dentition.  
LN: no cervical lymphadenopathy appreciated  
Lungs: no rales; exp wheezes loudest on the L anteriorly  
Cor: normal S1S2; I/VI systolic murmur at LSB; no ___ or rub  

appreciated  
Abd: BSA; no masses; nontender to palpation; no organomegaly  
appreciated  
Ext: trace pre-tibial edema  
Neuro: CN II-XII intact, strength and sensation grossly intact 
in all extremities 

DISCHARGE PHYSICAL EXAM:
Vitals: T98.1 BP 135/63 HR 80 18 100% 2L
Gen: Appears well. NAD.
HEENT: Dry mucus membranes.
CV: RRR. No murmurs.
Lungs: Diffuse wheezes in both anterior/posterior lung fields.
Abdomen: Soft/ND/NT. +BS
Extremities: no edema

 
Pertinent Results:
ADMISSION LABS:
___ 01:45PM BLOOD cTropnT-<0.01
___ 06:00AM BLOOD cTropnT-<0.01
___ 01:45PM BLOOD WBC-7.4# RBC-4.75 Hgb-13.4* Hct-40.6 
MCV-86 MCH-28.1 MCHC-32.9 RDW-15.1 Plt ___
___ 01:45PM BLOOD Neuts-71.9* Lymphs-10.5* Monos-6.4 
Eos-10.6* Baso-0.7
___ 01:45PM BLOOD Glucose-110* UreaN-12 Creat-0.9 Na-131* 
K-3.7 Cl-93* HCO3-27 AnGap-15
___ 06:00AM BLOOD Albumin-3.4* Calcium-8.0* Phos-2.6* 
Mg-1.7
___ 07:55PM BLOOD Lactate-3.4*
___ 01:36PM BLOOD Lactate-1.5

DISCHARGE LABS:
___ 08:10AM BLOOD WBC-5.2 RBC-4.02* Hgb-11.2* Hct-35.7* 
MCV-89 MCH-27.9 MCHC-31.4 RDW-15.7* Plt ___
___ 08:10AM BLOOD Glucose-104* UreaN-12 Creat-0.8 Na-139 
K-4.3 Cl-100 HCO3-29 AnGap-14
___ 08:10AM BLOOD Calcium-9.1 Phos-2.8 Mg-2.0

Micro:
Influenza A/B Negative:
Viral respiratory panel: pending upon discharge

Imagining:
___ CXR: Hyperinflated lungs with mild bibasilar 
atelectasis. 

 
Brief Hospital Course:
The following issues were addressed over the course of the 
hospital stay:

___ with HIV well controlled, RAD, recent URI with cough and 
wheezing, presents with episodes of lightheadedness on standing, 
left side tingling of trunk/shoulder/arm, found to be febrile, 
tachycardic and rigoring in ED  

#Pneumonia: Fever, tachycardia, mild cough, wheezing. 
Generalized weakness w/ lactate 3.4 --> 1.5. CXR not convincing 
for pneumonia but given presentation suspect a viral etiology. 
Covered for atypicals given HIV status although well controlled. 
Influenza A/B negative with viral throat culture pending upon 
discharge as would not change management. Patient treated with 
levoquin that should continue for a total of 5 days of treatment 
given immunocompromised and clinically improving with 
antibiotics.

#Asthma Exacerbation: Treated with prednisone 60 mg x 1 which 
was discontinued due to two episodes of explosive diarrhea (see 
below). Patient's ambulatory sat was 97-99% prior to discharge 
and thus felt that the risk of prednisone outweight potential 
benefits. However patient instructed if his breathing does not 
improve within 5 days he may need a prednisone burst in the 
future. Continued on home asthma meds. Peak flows measured in 
house were 150 with patient instructed to check peak flows at 
least 3 times a day and keep a log for his PCP in ___. 

#Diarrhea: patient developed two explosive episodes of diarrhea. 
These episodes were isolated and did not recur prior to 
discharge for a c. diff sample to be sent. He had no associated 
abdominal pain. Patient instructed if he develops severe 
diarrhea associated with abdominal pain to call primary care to 
be seen or come to ED.

#Lightheadedness with tingling of L trunk/shoulder/arm. 
Lightheadedness on standing suggestive of orthostasis, but neg 
orthostasis on exam. He has had similar episodes in the remote 
past involving his legs, which raises concern for a neurological 
etiology given his hereditary neuropathy. He underwent cardiac 
echo (TTE) on ___ which demonstrated LVEF > 55 %; no 
valvular disease; mildly dilated aortic root. Mild pulmonary 
artery systolic hypertension. In the ED trop neg and no EKG 
changes, making unstable angina unlikely.  Orthostatics negative 
and symptoms resolved by discharge. No evidence of zoster on 
exam. Utimately symptoms felt to be due to Rafsum's disease.

#) HIV. Stable on atripla, seen in ___ clinic today. No h/o  
AIDS defining infection in the past or OI. PPD previously 
negative in ___.  
  
# HTN. stable  
- continued HCTZ 
 
# Allergy  
- continued home ___ meds 
  
# Refsum Disease c/b polyneuropathy  
- low fat diet  
 
Transitional issues:
[ ] f/u on Peak flows as outpatient to ensure improvement of 
asthma
[ ] patient may need prednisone taper in future if symptoms do 
not improve
[ ] monitor diarrhea
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lorazepam 0.5 mg PO HS:PRN insomnia 
2. mometasone 50 mcg/actuation nasal qd 
3. Simvastatin 20 mg PO DAILY 
4. Montelukast 10 mg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. efavirenz-emtricitabin-tenofov ___ mg oral qd 
7. mometasone 220 mcg (120 doses) inhalation bid 
8. Ibuprofen 200 mg PO Q8H:PRN arthritis 
9. albuterol sulfate 90 mcg/actuation inhalation ___ puffs q4-6h 
sob 
10. Hydrochlorothiazide 25 mg PO DAILY 
11. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1. Montelukast 10 mg PO DAILY 
2. Multivitamins 1 TAB PO DAILY 
3. Simvastatin 20 mg PO DAILY 
4. Vitamin D 1000 UNIT PO DAILY 
5. albuterol sulfate 90 mcg/actuation inhalation ___ puffs q4-6h 
sob 
RX *albuterol sulfate 90 mcg 2 puffs IH every ___ hours Disp #*1 
Inhaler Refills:*0
6. efavirenz-emtricitabin-tenofov ___ mg oral qd 
7. Hydrochlorothiazide 25 mg PO DAILY 
8. Ibuprofen 200 mg PO Q8H:PRN arthritis 
9. Lorazepam 0.5 mg PO HS:PRN insomnia 
10. mometasone 50 mcg/actuation nasal qd 
11. mometasone 220 mcg (120 doses) inhalation bid 
12. Levofloxacin 750 mg PO DAILY 
RX *levofloxacin 750 mg 1 tablet(s) by mouth daily Disp #*3 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Viral pneumonia
Asthma exacerbation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted to ___ due to a viral pneumonia and asthma 
exacerbation. In addition, you were treated with antibiotics 
give your immunocompromise and high fevers. Your chest x-ray was 
clear. We decided to stop prednisone for your asthma due to the 
diarrhea you had prior to discharge. However, since the dirrhea 
was limited to two episodes and had ceased prior to discharge, 
it is safe for you to go home with the understanding if this 
worsens or if you develop abdominal pain please call your 
primary care physician to be seen sooner. 

It was a pleasure taking care of you here at ___. Please 
continue to monitor your peak flows at home at least 3 times/day 
and keep a log. Bring this to your primary care provider's 
appointment. 
 
Followup Instructions:
___